### PR TITLE
[Merged by Bors] - feat(SpecialFunctions): Integral representation of `rpow` over `Ioo 0 1`

### PR DESCRIPTION
**Pull request by dupuisf**
This file contains an integral representation of the `rpow` function between 0 and 1: we show that there exists a measure on ℝ such that `x ^ p = ∫ t, rpowIntegrand₀₁ p t x ∂μ` for the integrand `rpowIntegrand₀₁ p t x := t ^ p * (t⁻¹ - (t + x)⁻¹)`.

This representation is useful for showing that `rpow` is operator monotone and operator concave in this range; that is, `cfc rpow` is monotone/concave. The integrand can be shown to be operator monotone and concave through direct means, and this integral lifts these properties to `rpow`.

---
I put the file under `Analysis.SpecialFunctions.ContinuousFunctionalCalculus.Rpow` even though there is nothing specific to the CFC yet, though this will soon follow with the applications outlined above. However, this material could be moved to a more general folder if this representation has applications outside the CFC context.

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 1]
```diff
@@ -0,0 +1,412 @@
...
++ [carlen2010] Eric A. Carlen, "Trace inequalities and quantum entropies: An introductory course"
+  (see Lemma 2.8)
+-/
+
+open MeasureTheory Set Filter
+open scoped NNReal Topology
+
+namespace Real
+
+/-- Integrand for representing `x ↦ x^p` for `p ∈ (0,1)` -/
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:49]:
```suggestion
/-- Integrand for representing `x ↦ x ^ p` for `p ∈ (0,1)` -/
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 2]
```diff
@@ -0,0 +1,412 @@
...
+
+variable {p t x : ℝ}
+
+@[simp]
+lemma rpowIntegrand₀₁_zero_right : rpowIntegrand₀₁ p t 0 = 0 := by simp [rpowIntegrand₀₁]
+
+lemma rpowIntegrand₀₁_zero_left (hp : 0 < p) : rpowIntegrand₀₁ p 0 x = 0 := by
+  have : p ≠ 0 := ne_of_gt hp
+  simp only [rpowIntegrand₀₁, Real.zero_rpow this, div_zero, zero_add, one_div, zero_sub,
+    mul_neg, zero_mul, neg_zero]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:60]:
```suggestion
  simp [rpowIntegrand₀₁, Real.zero_rpow hp.ne']
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 3]
```diff
@@ -0,0 +1,412 @@
...
+      _ = t ^ p * x / (t * (t + x)) := by ring
+      _ = (t ^ p * x / t) / (t + x) := Eq.symm (div_div ((t : ℝ) ^ p * ↑x) (↑t) (↑t + ↑x))
+      _ = (t ^ p / t * x) / (t + x) := by field_simp
+      _ = t ^ p / t * x / (t + x) := by ring
+      _ = t ^ (p - 1) * x / (t + x) := by congr; exact (Real.rpow_sub_one ht' p).symm
+  case pos =>
+    simp only [mem_Ioo] at hp
+    have hp₁ : p ≠ 0 := Ne.symm (ne_of_lt hp.1)
+    have hp₂ : p - 1 ≠ 0 := by linarith
+    simp [rpowIntegrand₀₁, ht', hp₁, hp₂]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:95]:
```suggestion
    have hxt : t + x ≠ 0 := by positivity
    calc _ = (t : ℝ) ^ p * (t⁻¹ - (t + x)⁻¹) := rfl
      _ = (t : ℝ) ^ p * ((t + x - t) / (t * (t + x))) := by
          simp only [inv_eq_one_div]
          rw [div_sub_div _ _ (by aesop) (by aesop)]
          simp
      _ = t ^ p / t * x / (t + x) := by field_simp
      _ = t ^ (p - 1) * x / (t + x) := by congr; exact (Real.rpow_sub_one ht' p).symm
  case pos =>
    simp only [mem_Ioo] at hp
    have hp₂ : p - 1 ≠ 0 := by linarith
    simp [rpowIntegrand₀₁, ht', hp.1.ne', hp₂]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 4]
```diff
@@ -0,0 +1,412 @@
...
+              congr 1
+              have : x * t + x = x * (t + 1) := by ring
+              rw [this, div_mul_eq_div_mul_one_div, div_self hx_zero, one_mul]
+      _ = t ^ (p - 1) * 1 / (t + 1) * x ^ (p - 1) := by rw [mul_comm]
+  case pos =>
+    simp [hx_zero]
+    apply Or.inr
+    refine Real.zero_rpow ?_
+    rw [mem_Ioo] at hp
+    linarith
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:124]:
```suggestion
              rw [← mul_assoc, mul_div_assoc, Real.mul_rpow hx ht]
      _ = x ^ (p - 1) * (t ^ (p - 1) * 1 / (t + 1)) := by
              have : x * t + x = x * (t + 1) := by ring
              rw [mul_div_assoc, this, div_mul_eq_div_mul_one_div, div_self hx_zero, one_mul]
      _ = t ^ (p - 1) * 1 / (t + 1) * x ^ (p - 1) := by rw [mul_comm]
  case pos =>
    rw [mem_Ioo] at hp
    simp [hx_zero, Real.zero_rpow (by linarith : p - 1 ≠ 0)]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 5]
```diff
@@ -0,0 +1,412 @@
...
+    rpowIntegrand₀₁ p (x * t) x * x  = (rpowIntegrand₀₁ p t 1) * x ^ p := by
+  simp only [rpowIntegrand₀₁_apply_mul hp ht hx, mul_assoc]
+  congr
+  by_cases hx_zero : x = 0
+  case neg =>
+    have : 0 < x := lt_of_le_of_ne hx fun a => hx_zero (id (Eq.symm a))
+    field_simp [Real.rpow_sub this]
+  case pos =>
+    have : p ≠ 0 := by rw [mem_Ioo] at hp; linarith
+    simp [hx_zero, Real.zero_rpow this]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:136]:
```suggestion
  simpa using Eq.symm <| Real.rpow_add' hx (by aesop : (p - 1) + 1 ≠ 0)
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 6]
```diff
@@ -0,0 +1,412 @@
...
+    ContinuousOn (rpowIntegrand₀₁ p · x) (Ioi 0) := by
+  refine ContinuousOn.congr ?_ <| rpowIntegrand₀₁_eqOn_pow_div hp hx
+  refine ContinuousOn.mul ?_ ?_
+  · refine ContinuousOn.mul ?_ continuousOn_const
+    exact ContinuousOn.rpow_const (by fun_prop) fun t ht => Or.inl <| Ne.symm (ne_of_lt ht)
+  · refine ContinuousOn.inv₀ (by fun_prop) ?_
+    intro t ht
+    simp only [mem_Ioo] at *
+    have : 0 < t + x := add_pos_of_pos_of_nonneg ht hx
+    exact Ne.symm (ne_of_lt this)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:153]: Just supplying the one goal and then calling `fun_prop` with a discharger works.
```suggestion
  have h₀ : ContinuousOn (· ^ (p - 1) : ℝ → ℝ) (Ioi 0) := .rpow_const (by fun_prop) <|
    fun t ht => .inl ht.ne' 
  fun_prop (disch := intros; simp_all; positivity)
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 7]
```diff
@@ -0,0 +1,412 @@
...
+  case meas =>
+    refine ContinuousOn.aestronglyMeasurable ?_ measurableSet_Ioo
+    exact ContinuousOn.mono (continuousOn_rpowIntegrand₀₁ hp hx) Ioo_subset_Ioi_self
+  case finite =>
+    refine HasFiniteIntegral.mono' (g := fun t => t ^ (p - 1)) ?finitebound ?ae_le
+    case finitebound =>
+      apply Integrable.hasFiniteIntegral
+      rw [Set.mem_Ioo] at hp
+      change IntegrableOn (fun t => t ^ (p - 1)) (Set.Ioo 0 1) volume
+      rw [intervalIntegral.integrableOn_Ioo_rpow_iff]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:212]:
```suggestion
      rw [← IntegrableOn, intervalIntegral.integrableOn_Ioo_rpow_iff]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 8]
```diff
@@ -0,0 +1,412 @@
...
+
+/- This lemma is private because it is strictly weaker than `integrableOn_rpowIntegrand₀₁_Ioi` -/
+private lemma integrableOn_rpowIntegrand₀₁_Ioi_one (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
+    IntegrableOn (rpowIntegrand₀₁ p · x) (Ioi 1) := by
+  refine ⟨?meas, ?finite⟩
+  case meas =>
+    refine ContinuousOn.aestronglyMeasurable ?_ measurableSet_Ioi
+    refine ContinuousOn.mono (continuousOn_rpowIntegrand₀₁ hp hx) fun t ht => ?_
+    calc 0 < 1 := zero_lt_one
+      _ < t := ht
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:228]:
```suggestion
    exact continuousOn_rpowIntegrand₀₁ hp hx |>.mono (Set.Ioi_subset_Ioi zero_le_one)
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 9]
```diff
@@ -0,0 +1,412 @@
...
+      rw [Set.mem_Ioo] at hp
+      refine integrableOn_Ioi_rpow_of_lt ?_ zero_lt_one
+      linarith
+    case ae_le =>
+      refine ae_restrict_of_forall_mem measurableSet_Ioi fun t ht => ?_
+      have ht' : 0 ≤ t := calc
+        0 ≤ 1 := zero_le_one
+        _ ≤ t := le_of_lt ht
+      rw [Real.norm_of_nonneg (rpowIntegrand₀₁_nonneg hp.1 ht' hx)]
+      exact rpowIntegrand₀₁_le_rpow_sub_two_mul_self hp (zero_lt_one.trans ht) hx
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:243]:
```suggestion
      refine ae_restrict_of_forall_mem measurableSet_Ioi fun t (ht : 1 < t) => ?_
      rw [Real.norm_of_nonneg (rpowIntegrand₀₁_nonneg hp.1 (by positivity) hx)]
      exact rpowIntegrand₀₁_le_rpow_sub_two_mul_self hp (by positivity) hx
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 10]
```diff
@@ -0,0 +1,412 @@
...
+      by_cases ht' : t ≤ 1
+      · exact Or.inl ⟨ht, ht'⟩
+      · push_neg at ht'
+        exact Or.inr ht'
+    · rw [Set.mem_union] at ht
+      rcases ht with ht|ht
+      · exact ht.1
+      · calc (0 : ℝ) < 1 := zero_lt_one
+          _ < t := ht
+  rw [hunion]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:262]: There's already a lemma for this.
```suggestion
  rw [← Set.Ioc_union_Ioi_eq_Ioi zero_le_one]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 11]
```diff
@@ -0,0 +1,412 @@
...
+  exact IntegrableOn.union (integrableOn_rpowIntegrand₀₁_Ioc hp hx)
+    (integrableOn_rpowIntegrand₀₁_Ioi_one hp hx)
+
+lemma integrableOn_rpowIntegrand₀₁_Ici (hp : p ∈ Ioo 0 1) (hx : 0 ≤ x) :
+    IntegrableOn (rpowIntegrand₀₁ p · x) (Ici 0) :=
+  IntegrableOn.congr_set_ae (integrableOn_rpowIntegrand₀₁_Ioi hp hx)
+    (EventuallyEq.symm Ioi_ae_eq_Ici)
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:269]:
```suggestion
  integrableOn_rpowIntegrand₀₁_Ioi hp hx |>.congr_set_ae Ioi_ae_eq_Ici.symm
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 12]
```diff
@@ -0,0 +1,412 @@
...
+    have hrw : (∫ t in Ioi 0, rpowIntegrand₀₁ p t x) = (∫ t in Ioi (f 0), g t) := by
+      simp [g, f]
+    rw [hrw, ← integral_comp_mul_deriv_Ioi hf hft hff' hg_cont hg1 hg2]
+    simp only [f, g, f', Function.comp]
+    have heqOn : EqOn (fun t => rpowIntegrand₀₁ p (x * t) x * x)
+        (fun t => (rpowIntegrand₀₁ p t 1) * x ^ p) (Ioi 0) :=
+      EqOn.mono Ioi_subset_Ici_self (rpowIntegrand₀₁_apply_mul_eqOn_Ici hp hx)
+    rw [setIntegral_congr_fun measurableSet_Ioi heqOn]
+    simp only [← smul_eq_mul (b := x ^ p), integral_smul_const]
+    rw [smul_eq_mul, mul_comm]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:343]:
```suggestion
  obtain (rfl | hx) := hx.eq_or_lt
  · simp [rpowIntegrand₀₁, Real.zero_rpow hp.1.ne']
  suffices ∫ t in Ioi 0, ((rpowIntegrand₀₁ p · x) ∘ (x * ·)) t * x =
      x ^ p * (∫ t in Ioi 0, rpowIntegrand₀₁ p t 1) by
    rwa [integral_comp_mul_deriv_Ioi (by fun_prop), mul_zero] at this
    · exact tendsto_id.const_mul_atTop hx
    · simpa using fun t _ ↦ hasDerivWithinAt_id t (Ioi t) |>.const_mul x
    · simpa [Set.image_mul_left_Ioi hx] using continuousOn_rpowIntegrand₀₁ hp hx.le
    · simpa [Set.image_mul_left_Ici hx] using integrableOn_rpowIntegrand₀₁_Ici hp hx.le
    · simp only [Function.comp, rpowIntegrand₀₁_apply_mul' hp hx.le]
      rw [integrableOn_congr_fun (rpowIntegrand₀₁_apply_mul_eqOn_Ici hp hx.le) measurableSet_Ici]
      exact Integrable.mul_const (integrableOn_rpowIntegrand₀₁_Ici hp zero_le_one) _
  have heqOn : EqOn (fun t => rpowIntegrand₀₁ p (x * t) x * x)
      (fun t => (rpowIntegrand₀₁ p t 1) * x ^ p) (Ioi 0) :=
    EqOn.mono Ioi_subset_Ici_self (rpowIntegrand₀₁_apply_mul_eqOn_Ici hp hx.le)
  simp only [Function.comp, setIntegral_congr_fun measurableSet_Ioi heqOn,
    ← smul_eq_mul (b := x ^ p), integral_smul_const]
  rw [smul_eq_mul, mul_comm]
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 13]
```diff
@@ -0,0 +1,412 @@
...
+
+lemma le_integral_rpowIntegrand₀₁_one (hp : p ∈ Ioo 0 1) :
+    -1 / (2 * (p - 1)) ≤ ∫ t in Ioi 0, rpowIntegrand₀₁ p t 1 := calc
+  _ = (1 / 2) * -((1 : ℝ) ^ (p - 1)) / (p - 1) := by rw [← div_div]; simp [neg_div]
+  _ = (1 / 2) * ∫ t in Ioi 1, t ^ (p - 2) := by
+        simp only [mem_Ioo] at hp
+        rw [integral_Ioi_rpow_of_lt (by linarith) zero_lt_one]
+        ring_nf   -- ring alone succeeds but gives a warning
+  _ = ∫ t in Ioi 1, (1 / 2) * t ^ (p - 2) := by
+        exact Eq.symm (integral_mul_left (1 / 2) fun a => a ^ (p - 2))
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:353]:
```suggestion
  _ = ∫ t in Ioi 1, (1 / 2) * t ^ (p - 2) := by
        simp only [mem_Ioo] at hp
        rw [integral_mul_left, integral_Ioi_rpow_of_lt (by linarith) zero_lt_one]
        ring_nf   -- ring alone succeeds but gives a warning
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 14]
```diff
@@ -0,0 +1,412 @@
...
+  _ ≤ ∫ t in Ioi 0, rpowIntegrand₀₁ p t 1 := by
+        refine setIntegral_mono_set (integrableOn_rpowIntegrand₀₁_Ioi hp zero_le_one) ?_ ?_
+        · unfold EventuallyLE
+          refine ae_restrict_of_forall_mem measurableSet_Ioi fun t ht => ?_
+          exact rpowIntegrand₀₁_nonneg hp.1 (le_of_lt ht) zero_le_one
+        · refine Filter.Eventually.of_forall ?_
+          change Ioi 1 ⊆ Ioi 0
+          intro t ht
+          simp only [mem_Ioi] at *
+          linarith
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:370]:
```suggestion
        · refine ae_restrict_of_forall_mem measurableSet_Ioi fun t ht => ?_
          exact rpowIntegrand₀₁_nonneg hp.1 (le_of_lt ht) zero_le_one
        · exact .of_forall <| Set.Ioi_subset_Ioi zero_le_one
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean [hunk 15]
```diff
@@ -0,0 +1,412 @@
...
+        exact le_of_lt <| integral_rpowIntegrand₀₁_one_pos hp }
+  let μ : Measure ℝ := C • volume.restrict (Ioi 0)
+  refine ⟨μ, ?_, fun x hx => ?_⟩
+  · refine Measure.ae_smul_measure ?_ _
+    filter_upwards [ae_restrict_mem measurableSet_Ioi] with t ht
+    exact ht
+  · have : C • ∫ t in Ioi 0, rpowIntegrand₀₁ p t x
+        = (C : ℝ) • ∫ t in Ioi 0, rpowIntegrand₀₁ p t x :=
+      rfl
+    rw [integral_smul_nnreal_measure, rpow_eq_const_mul_integral hp hx, this]
```
Comment (j-loreaux) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/IntegralRepresentation.lean:409]:
```suggestion
  · rw [integral_smul_nnreal_measure, rpow_eq_const_mul_integral hp hx]
```

**Review by j-loreaux — COMMENTED** [review]
There are a lot of golfs, mainly because I wanted to understand why things were seemingly so hard, which means I went through the goals with a fine tooth comb, and hence found lots of tiny improvements (but only a few big ones). So don't take this as a commentary on your code writing! :laughing: 

Also, note that one goal I wanted `positivity` to solve, but it's not currently in scope, so I posted this on Zulip: [#general > "Missing Tactics" list @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.22Missing.20Tactics.22.20list/near/516741394)

**Comment by dupuisf** [comment]
> There are a lot of golfs, mainly because I wanted to understand why things were seemingly so hard, which means I went through the goals with a fine tooth comb, and hence found lots of tiny improvements (but only a few big ones). So don't take this as a commentary on your code writing! 😆
> 
> Also, note that one goal I wanted `positivity` to solve, but it's not currently in scope, so I posted this on Zulip: [#general > "Missing Tactics" list @ 💬](https://leanprover.zulipchat.com/#narrow/channel/113488-general/topic/.22Missing.20Tactics.22.20list/near/516741394)

Yeah, I definitely understand why you were surprised at the difficulty!

**Comment by j-loreaux** [comment]
bors merge
